US07163936B2
A solution of lithium hexamethyldisilazide in THF (1M, 0.30 ml, 0.30 mmol) was added at 0–5° C. to a solution of allyl (2S)-4-(2-mercapto-1,3-thiazol-4-yl)-2-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate (89 mg, 0.30 mmol) in THF (2.0 ml) and the mixture was stirred for 10 minutes. To the reaction solution was added at 0° C. a solution of allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate in acetonitrile (30%, 1.2 g, 0.60 mmol) and the solution was allowed to stand in a refrigerator for 16 hours. To the reaction solution was added ice water and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was purified with silica gel chromatography (hexane/ethyl acetate: 1/4→1/3) to give allyl (4R,5S,6S)-3-[(4-{(2S)-1-[(allyloxy)carbonyl]-2-methyl-1,2,3,6-tetrahydro-4-pyridinyl}-1,3-thiazol-2-yl)sulfanyl]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (87 mg, 47%).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | allyl (2S)-4-(2-mercapto-1,3-thiazol-4-yl)-2-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate | 0.30 mmol, 89 mg | SC=1SC=C(N1)C=1C[C@@H](N(CC1)C(=O)OCC=C)C | C13H16N2O2S2
reactant | allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | O(C1=CC=CC=C1)P(OC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C)OC1=CC=CC=C1 | C28H34NO7PSi
reactant | acetonitrile | 0.60 mmol, 1.2 g | C(C)#N | C2H3N
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | THF | 0.30 mmol, 1M, 0.30 ml | C1CCOC1 | C4H8O
product | allyl (4R,5S,6S)-3-[(4-{(2S)-1-[(allyloxy)carbonyl]-2-methyl-1,2,3,6-tetrahydro-4-pyridinyl}-1,3-thiazol-2-yl)sulfanyl]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 87 mg, 47% | C(C=C)OC(=O)N1[C@H](CC(=CC1)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C)C | C29H39N3O6S2Si
